2107-04-02 08:30:00 Physician Attending Progress Note
Chief Complaint: atrial tach,
   HPI:
   24 Hour Events:
   Given Metoprolol 5 IV x 2 [**Doctor Last Name 3897**] better rate control and slight
   improvement in BPs
 but still SBP ranges in high 80 to 90s. No chest
   pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2107-4-2**] 07:36 AM
   Other medications:
   CaCarb
   Pravatstain
   MVI
   Olendranate
   Cipro
   Trazadone
   Flaygl
   Tylenol
   Atrovent
   Tiotropium
   SC hep
   Neurtaphos
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-2**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 135 (111 - 140) bpm
   BP: 87/50(61) {78/45(53) - 88/61(69)} mmHg
   RR: 34 (18 - 35) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             141 mL
   PO:
             60 mL
   TF:
   IVF:
   81 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    355 mL
   Urine:
   355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Gen: think conversant
   HEENT:  o/p dry
    CV: irreg irreg tachy
   Chest: fair air movement diffuse exp wheezes
   Abd: soft mild diffuse tenderness to deep palp in RLQ
   Neuro: conversant
   Labs / Radiology
   9.2 g/dL
   251 K/uL
   122 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.5 mEq/L
   35 mg/dL
   105 mEq/L
   140 mEq/L
   27.6 %
   12.0 K/uL
        [image002.jpg]
                             [**2107-4-2**]  01:28 AM
   WBC
   12.0
   Hct
   27.6
   Plt
   251
   Cr
   1.2
   Glucose
   122
   Other labs: CK / CKMB / Troponin-T:67/4/, ALT / AST:32/36, Alk Phos / T
   Bili:57/0.2, Lactic Acid:1.5 mmol/L, LDH:191 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 CANCER (MALIGNANT NEOPLASM), PROSTATE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   81 year old male with CHF, Stage III CKD, lung CA s/p wedge resection,
   and prostate CA s/p hormonal tx and XRT who presented [**3-29**] with
   ruptured appendix medically managed, transferred to medicine floor for
   tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and relative
   hypotension.
   1.       [**Name2 (NI) **]rdia  - runs of sinus tach with APC and atrial tach,
   possible intermittent Afib but we have not captured that well by 12
   lead ECG. At this point, it appears he is total body volume overloaded
   but intravasc dry and his hemodynamics have worsened with diuresis.
   Given known pHTN this may reflect poor preload with Rv duysfunction, I
   would favor running him even to slightly positive and seeing the effect
   this has. For diagnostic purposes would  give 500 cc bolus, watch HR
   and BPs- watch UOP. PE in the differential
 start with LENIs, then
   proceed to CTA
   2.        Ruptured Appy:  stable, surgery following, continue ABX.
   Contact [**First Name8 (NamePattern2) 4415**] [**Name2 (NI) **] his primary cards.
   3.       Anemia: guiac + stools and diarrhea. Cycle HCT, type and cross
   x 2 units, Check C diff.
   4.       CRF: watch UOP and renally dose meds
   Remianig issues as per Housestaff notes
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-4-2**] 12:22 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with patient
   Code status: FULL
   Disposition : ICU
   Total time spent: 31
   ------ Protected Section ------
   Repeat HCT 25 which is concerning for GI bleed and possibly related to
   perforated appy. We will tx 2 UPRBC and have called surgery who feel
   that OR is not indicated at this point  but abd CT would help further
   characterize. We have also consulted GI for the role egd and or
   colonoscopy
 they will consult but again risk of perf very high and
   unlikely they would scope from below.
   ------ Protected Section Addendum Entered By:[**Name (NI) 260**] [**Last Name (NamePattern1) 261**], MD
   on:[**2107-4-2**] 16:33 ------

2107-04-03 08:17:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
   - pt confirmed full code status. He has no relatives and does not wish
   to appoint a HCP. [**Name (NI) 4436**] case senario, he wishes a lawyer to be
   appointed for him
   - Have guaiac + brown stool with Hct drop from 30--> 27--> 24.
   Transfused 2u PRBCs. Surgery aware and do not want to take any
   immediate action. GI contact[**Name (NI) **] but do not want to scope with perfed
   appy. D/c'd Heparin SC
   -Got CTA chest and CT abd and pelvis in evening. Gave bicarb for
   kidneys and contrast
   - increasing wheezes in afternoon after 500cc bolus (to which BP and HR
   responded well) and started pRBCs. Ordered Xopenex. Got Lasix 10 IV
   between units of blood to which he put out 500 cc.
   - Uptitrated Metoprolol to 50 TID PO and gave 5 IV in afternoon
   - evening ABG 7.5/33/60 in 2L NC but tachypneic into high 30s. Incr NC
   to 3L.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2107-4-2**] 08:00 AM
   Ciprofloxacin - [**2107-4-2**] 10:09 PM
   Vancomycin - [**2107-4-2**] 11:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-3**] 12:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-4-2**] 09:29 AM
   Furosemide (Lasix) - [**2107-4-2**] 05:33 PM
   Metoprolol - [**2107-4-2**] 10:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain except abd pain on palpation. SOB at
   rest.
   Flowsheet Data as of  [**2107-4-3**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 35.9
C (96.7
   HR: 104 (92 - 138) bpm
   BP: 126/83(82) {72/26(25) - 126/83(82)} mmHg
   RR: 33 (29 - 42) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  2,683 mL
                                                                  1,663 mL
   PO:
                                                                    120 mL
           TF:
   IVF:
                                                                  1,813 mL
                                                                    963 mL
   Blood products:
                                                                    750 mL
                                                                    700 mL
   Total out:
                                                                  2,615 mL
                                                                    490 mL
   Urine:
                                                                  2,615 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     68 mL
                                                                  1,173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.50/33/60/24/2
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat, Wheezes : scattered, faint)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender:
   diffusely to deep palpation
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   207 K/uL
   13.5 g/dL
   172 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.7 mEq/L
   26 mg/dL
   105 mEq/L
   138 mEq/L
   38.8 %
   13.7 K/uL
        [image002.jpg]
                             [**2107-4-2**]  01:28 AM
                             [**2107-4-2**]  12:40 PM
                             [**2107-4-2**]  07:53 PM
                             [**2107-4-3**]  12:00 AM
                             [**2107-4-3**]  06:13 AM
   WBC
   12.0
   13.7
   Hct
   27.6
   24.4
   23.9
   38.8
   Plt
   251
   207
   Cr
   1.2
   1.1
   TCO2
   27
   Glucose
   122
   172
   Other labs: PT / PTT / INR:14.3/24.8/1.2, CK / CKMB / Troponin-T:67/4/,
   ALT / AST:32/36, Alk Phos / T Bili:57/0.2, Differential-Neuts:72.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:11.0 %, Eos:2.0 %, Lactic Acid:1.0
   mmol/L, LDH:191 IU/L, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 CANCER (MALIGNANT NEOPLASM), PROSTATE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   81 year old male with CHF, Stage III CKD, lung CA s/p wedge resection,
   and prostate CA s/p hormonal tx and XRT who presented [**3-29**] with
   ruptured appendix medically managed, transferred to medicine floor for
   tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and relative
   hypotension.
   1) [**Name2 (NI) 4407**]r/Afib w/RVR: Admission EKGs demonstrate sinus rhythm
   with normal rate, then acquired some ectopy, and then becoming more
   tachycardic on hospital days 3 and 4 with irregular rhythms.  Tonight
   he is in faster afib with relative hypotension.  [**Name2 (NI) **] has a history of
   paroxysmal AF managed with atenolol/ASA by Dr. [**Last Name (STitle) 4408**] (CHADS 2 but
   high risk for bleeding).  Initial presentation was asymptomatic and
   relatively asymptomatic tonight from afib and RVR with relative
   hypotension as he is mentating well and denying SOB, chest pain, palp,
   etc...  Nevertheless, would definitely benefit from better rate control
   and cardiac mechanics as well as avoiding stress of tachycardic given
   CAD.    Unclear precipitant to afib tonight as despite diuresis pt is
   overall quite positive for hospitalization so unlikely to be overall
   volume down. Potentially, greater respiratory effort (though pt denies)
   could trigger AF though he reports dyspnea is stable.  Also persistent
   infection though pt remained afebrile.
   - rate control <110 and MAP>55, will stop atenolol and convert to
   metoprolol in order to titrate up more quickly (will hold off on
   further PO dosing given atenolol given at 8pm and metoprolol IV*2)
   - monitor respiratory status given med administration
   -Maintain euvolemic
   -Pt w/ CAD so will check CE's in order to r/o ACS as cause of new
   tachycardia (extremely unlikely)
   -Pt is not maximized on CHF therapy and given depressed EF would
   benefit from [**Last Name (LF) **], [**First Name3 (LF) 116**] discuss with Dr. [**Last Name (STitle) 4408**] once hypotension is
   improved.
   -Recheck ECG in AM
   -Telemetry
   -No typical pattern but given malignancy and possible
   immobility/deconditioning pt is high risk for PE, will consider CTA if
   slow to improve but currently would prefer to avoid further nephrotoxic
   dye
   .
   # [**Last Name (un) 2406**] on CKD: Cr bump from 0.8 to 1.5 in setting of infection.  Now
   trending down.  We will continue to follow this.
   - renally dose meds
   - trend UOP
   - follow lytes
   .
   # Ruptured Appendix: The patient is empirically on
   ciprofloxacin/metronidazole for appendicitis w/ perf.  WBC count seems
   to be trending down for moment and no indication of sepsis (hypotension
   presumably due to RVR).  We will continue these and discuss ultimate
   duration of therapy w/ surgery.
   - continue cipro/flagyl
   - trend lactate, anion gap for changes
   #COPD: Respiratory status basically stable per patients report and no
   fever or infiltrate on CXR to suggest new PNA.
   -Continue outpatient med regimen
   -follow
   #Prostate and Lung Ca: Not currently on treatment for these at home.
   No tx indicated at this time.
   #Hyperlipidemia: Continue pravastatin at home dose.
   #FEN: Clears per last orders by surgery, replete lytes
   #PPx: Hep SC, no indication for PPI, bowel regimen
   #Access: One PIV
   #Code Status: Full
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2107-4-2**] 06:03 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2107-04-03 08:45:00 Physician Attending Progress Note
Chief Complaint: SVT, GI bleed, perforated appendicitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 81 yr old man with perforated appy, tx from surgery with atach,
   CHF, dypnea
   24 Hour Events:
   HCT 30, 28, 24, guaic + stool given 2 Units PRBC no bump then 2 more
   units  - initial repeat 38
   CTA and abd: negative for PE, ? small bowel obstruction with RLQ
   transition point but not to our read, bilat effussions,
   Remained tachy
 uptitrated bblocker
   Swicthed ABX to Vanco Zosyn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2107-4-2**] 08:00 AM
   Ciprofloxacin - [**2107-4-2**] 10:09 PM
   Vancomycin - [**2107-4-2**] 11:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-3**] 08:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-4-2**] 09:29 AM
   Furosemide (Lasix) - [**2107-4-2**] 05:33 PM
   Metoprolol - [**2107-4-2**] 10:00 PM
   Pantoprazole (Protonix) - [**2107-4-3**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-3**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 124 (92 - 138) bpm
   BP: 119/59(98) {72/26(25) - 126/83(98)} mmHg
   RR: 27 (27 - 42) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  2,683 mL
                                                                  1,809 mL
   PO:
                                                                    120 mL
           TF:
   IVF:
                                                                  1,813 mL
                                                                  1,109 mL
   Blood products:
                                                                    750 mL
                                                                    700 mL
   Total out:
                                                                  2,615 mL
                                                                    590 mL
   Urine:
                                                                  2,615 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     68 mL
                                                                  1,219 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.50/33/60/24/2
   Physical Examination
   Gen: alert, mildy dyspneic but conversant
   HEENT: o/p clear
   CV: irreg, [**Last Name (un) 4438**]
   Chest: exp wheezes
   Abd: soft RLQ tenderness
   Ext: no edema
   Labs / Radiology
   13.5 g/dL
   207 K/uL
   172 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.7 mEq/L
   26 mg/dL
   105 mEq/L
   138 mEq/L
   38.8 %
   13.7 K/uL
        [image002.jpg]
                             [**2107-4-2**]  01:28 AM
                             [**2107-4-2**]  12:40 PM
                             [**2107-4-2**]  07:53 PM
                             [**2107-4-3**]  12:00 AM
                             [**2107-4-3**]  06:13 AM
   WBC
   12.0
   13.7
   Hct
   27.6
   24.4
   23.9
   38.8
   Plt
   251
   207
   Cr
   1.2
   1.1
   TCO2
   27
   Glucose
   122
   172
   Other labs: PT / PTT / INR:14.3/24.8/1.2, CK / CKMB / Troponin-T:67/4/,
   ALT / AST:32/36, Alk Phos / T Bili:57/0.2, Differential-Neuts:72.0 %,
   Band:2.0 %, Lymph:8.0 %, Mono:11.0 %, Eos:2.0 %, Lactic Acid:1.0
   mmol/L, LDH:191 IU/L, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   CXR: bilat right greater than left pleural eff
   CT: neg PE, dilated loops of bowel, RLQ pSBO trasnition point
 thought
   this has been
   Assessment and Plan
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 CANCER (MALIGNANT NEOPLASM), PROSTATE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   81 year old male with CHF, Stage III CKD, lung CA s/p wedge resection,
   and prostate CA s/p hormonal tx and XRT who presented [**3-29**] with
   ruptured appendix medically managed, transferred to medicine floor for
   tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and relative
   hypotension.
   1.       [**Name2 (NI) **]rdia  - runs of sinus tach with APC and atrial tach,
   possible intermittent Afib but we have not captured that well by 12
   lead ECG. At this point, it appears he is total body volume overloaded
   but with the blood and fluid yesterday  his BP have stabilized.  At
   this point I think he is at least euvolemic and would not push more
   fluids. His attach and SVT seems to persist at various filling
   pressures and whether his breathing is labored or ot suggesting an
   instrinsic sinus node dysfunction which we will push on with bblockade.
   We have contact[**Name (NI) **] [**Name (NI) 4415**] [**Doctor Last Name **] his primary cards for further input.
   2. Resp Distress: likely combination of interstitial edema and
   overnight concerns for COPD so added IV steroid. I would favor keeopign
   euvolemic and using nebs and inhaled steroids. DC IV steroids given
   phlegmon in belly and unclear if he has true reactive airways based on
   old CT much of this could be some cardiac wheeze.
   2.        Ruptured Appy:  stable, surgery following, spoke with Dr
   [**Last Name (STitle) 4439**] at bedside today who feels that ongoing ABX are best course and
   hope that this will wall off.  She feels the CT is NOT consistent with
   SBO and by exam he is not behaving this way. no NGT and can watch
   clinically. Await final read of CT
   3.       Anemia: guiac + stools and diarrhea. Cycle HCT, is UP. GI
   teamfeels med management with PPI and no scope at present. Await formal
   consult
   4.       CRF: watch UOP and renally dose meds
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: po diet once final read
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-4-2**] 06:03 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with pt, he confirmd FULL code, he will need an atty
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-04-04 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2107-4-3**] 11:33 AM
   48h ago
   - pt confirmed full code status. He has no relatives and does not wish
   to appoint a HCP. [**Name (NI) 4436**] case senario, he wishes a lawyer to be
   appointed for him
   - Have guaiac + brown stool with Hct drop from 30--> 27--> 24.
   Transfused 2u PRBCs. Surgery aware and do not want to take any
   immediate action. GI contact[**Name (NI) **] but do not want to scope with perfed
   appy. D/c'd Heparin SC
   -Got CTA chest and CT abd and pelvis in evening. Gave bicarb for
   kidneys and contrast
   - increasing wheezes in afternoon after 500cc bolus (to which BP and HR
   responded well) and started pRBCs. Ordered Xopenex. Got Lasix 10 IV
   between units of blood to which he put out 500 cc.
   - Uptitrated Metoprolol to 50 TID PO and gave 5 IV in afternoon
   - evening ABG 7.5/33/60 in 2L NC but tachypneic into high 30s. Incr NC
   to 3L.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2107-4-2**] 08:00 AM
   Ciprofloxacin - [**2107-4-2**] 10:09 PM
   Vancomycin - [**2107-4-3**] 07:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-3**] 11:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-4-3**] 08:00 PM
   Furosemide (Lasix) - [**2107-4-3**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-4**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 101 (96 - 126) bpm
   BP: 100/48(61) {81/23(38) - 140/84(98)} mmHg
   RR: 31 (14 - 32) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,101 mL
                                                                    325 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,861 mL
                                                                    325 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,720 mL
                                                                    800 mL
   Urine:
                                                                  1,720 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,381 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   12.9 g/dL
   150 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   27 mg/dL
   105 mEq/L
   138 mEq/L
   36.8 %
   19.4 K/uL
        [image002.jpg]
                             [**2107-4-2**]  01:28 AM
                             [**2107-4-2**]  12:40 PM
                             [**2107-4-2**]  07:53 PM
                             [**2107-4-3**]  12:00 AM
                             [**2107-4-3**]  06:13 AM
                             [**2107-4-3**]  09:35 AM
                             [**2107-4-3**]  04:00 PM
                             [**2107-4-3**]  09:55 PM
                             [**2107-4-4**]  03:32 AM
   WBC
   12.0
   13.7
   19.4
   Hct
   27.6
   24.4
   23.9
   38.8
   40.7
   37.5
   39.2
   36.8
   Plt
   [**Telephone/Fax (3) 4461**]
   Cr
   1.2
   1.1
   1.1
   TCO2
   27
   Glucose
   122
   172
   150
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB / Troponin-T:67/4/,
   ALT / AST:32/36, Alk Phos / T Bili:57/0.2, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:191 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O ATRIAL FIBRILLATION (AFIB)
 CANCER (MALIGNANT NEOPLASM), PANCREAS
 CANCER (MALIGNANT NEOPLASM), PROSTATE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   81 year old male with CHF, Stage III CKD, lung CA s/p wedge resection,
   and prostate CA s/p hormonal tx and XRT who presented [**3-29**] with
   ruptured appendix medically managed, transferred to medicine floor for
   tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and relative
   hypotension.
   1) Tachycardia: Admission EKGs demonstrate sinus rhythm with normal
   rate, then acquired some ectopy, and then becoming more tachycardic on
   hospital days 3 and 4 with irregular rhythms.  He has a history of
   paroxysmal AF managed with atenolol/ASA by Dr. [**Last Name (STitle) 4408**] (CHADS 2 but
   high risk for bleeding).  However, this is not shown in any of his EKGs
   in OMR. Rather, he has documented sinus tach with APBs since [**2103**].
   Etiology of tachycardia has been unclear over last 24 hrs. He responded
   well briefly to fluid bolus yesterday so it was thought he was dry. He
   does have a h/o Pulm HTN, LVH 35% and some RV dysfunction so it was
   thought he could be preload sensitive. In the past, his sepsis was also
   thought to possibly be a contributor. Other possiblities entertained
   have included anemia from GIB, pain, albuterol nebs, PE. He was changed
   to Xopenex overnight and CTA has ruled out PE
   - rate control goal  <110 and MAP>55. Will uptitrate BB today
   -Maintain euvolemic
   -Telemetry
   .
   # GIB- Hct now stable s/p 4 u PRBCs . GI consulted but wished to defer
   scope for now as Hct stable
   -f/u GI recs
   -Q 6 hrs HCT
   -obtaining PICC access today
   -PPI [**Hospital1 **]
   -f/u final CT read
   .
   #COPD: Pt with incr wheeze and resp distress o/n. Thought to be
   possible COPD exacerbation. Nebs changed to Xopenex, steroids started,
   abx changed to Vanco/zosyn
   -cont xopenex nebs for now
   -d/c steroids but if resp status declines, consider adding back on
   - cont Vanco/zosyn for now
    .
   # [**Last Name (un) 2406**] on CKD: Cr down slightly today to 1.1.  We will continue to
   follow this.
   - renally dose meds
   - trend UOP
   - follow lytes
   .
   # Ruptured Appendix: ciprofloxacin/metronidazole for appendicitis w/
   perf changed to zosyn/Vanco overnight with surgery
s approval. CT final
   read pending but does not seem to show SBO at this time.
   - continue zosyn/Vanco
   -f/u final read CT
   -f/u surgery recs
   #Prostate and Lung Ca: Not currently on treatment for these at home.
   No tx indicated at this time.
   #Hyperlipidemia: Continue pravastatin at home dose.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2107-4-2**] 06:03 PM
   Prophylaxis:
   DVT: Boots, NO SC Heparin given GIB
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  pt wishes a lawyer to be appointed for him
   in the case that he cannot make his own healthcare decisions
   Code status: Full code
   Disposition:ICU

2107-04-05 07:25:00 Physician Resident Progress Note
Chief Complaint: 81 year old male with CHF, Stage III CKD, lung CA s/p
   wedge resection, and prostate CA s/p hormonal tx and XRT who presented
   [**3-29**] with ruptured appendix medically managed, transferred to medicine
   floor for tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and
   relative hypotension.
   24 Hour Events:
   Rash on buttocks and perineum thought to be fungal, sore, not itchy
   turning and applying antifungals.
   Cards consult: tachycardia is sinus, recommend trying Dig IV (.25 q12 x
   3d, then 0.125 daily), recommend switching BB to CCB due to wheezing.
   GI: recommended KUB, diet: sips.
   CXR: Interval worsening of bibasilar atelectasis and small bilateral
   pleural effusions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2107-4-2**] 08:00 AM
   Ciprofloxacin - [**2107-4-2**] 10:09 PM
   Vancomycin - [**2107-4-4**] 08:38 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-5**] 12:22 AM
   Other ICU medications:
   Metoprolol - [**2107-4-4**] 12:30 PM
   Pantoprazole (Protonix) - [**2107-4-4**] 08:38 PM
   Flowsheet Data as of  [**2107-4-5**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 110 (105 - 156) bpm
   BP: 103/63(49) {77/35(44) - 112/101(104)} mmHg
   RR: 30 (23 - 39) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,230 mL
                                                                    170 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                    910 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    370 mL
   Urine:
                                                                  1,665 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -435 mL
                                                                   -200 mL
   Physical Examination
   GEN: NAD
   HEENT: dry MM
   CV: tachycardic, no murmurs
   PULM: CTA B
   ABD: soft but distended, TTP worst in RLQ, +BS, no guarding, no
   rebound, not tense
   EXT: no edema
   PERINEUM: erythematous, most rash over scrotum and surrounding area
   Labs / Radiology
   215 K/uL
   13.4 g/dL
   113 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.9 mEq/L
   31 mg/dL
   104 mEq/L
   139 mEq/L
   38.0 %
   26.1 K/uL
        [image002.jpg]
                             [**2107-4-2**]  12:40 PM
                             [**2107-4-2**]  07:53 PM
                             [**2107-4-3**]  12:00 AM
                             [**2107-4-3**]  06:13 AM
                             [**2107-4-3**]  09:35 AM
                             [**2107-4-3**]  04:00 PM
                             [**2107-4-3**]  09:55 PM
                             [**2107-4-4**]  03:32 AM
                             [**2107-4-4**]  11:16 AM
                             [**2107-4-5**]  05:12 AM
   WBC
   13.7
   19.4
   26.1
   Hct
   24.4
   23.9
   38.8
   40.7
   37.5
   39.2
   36.8
   41.1
   38.0
   Plt
   [**Telephone/Fax (3) 4492**]
   Cr
   1.1
   1.1
   1.4
   TCO2
   27
   Glucose
   172
   150
   113
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB / Troponin-T:67/4/,
   ALT / AST:32/36, Alk Phos / T Bili:57/0.2, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:2.5 g/dL, LDH:191 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   81 year old male with CHF, Stage III CKD, lung CA s/p wedge resection,
   and prostate CA s/p hormonal tx and XRT who presented [**3-29**] with
   ruptured appendix medically managed, transferred to medicine floor for
   tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and relative
   hypotension.
   # Tachycardia: has h/o PAF, but on eval by cardiology is thought to be
   in sinus tachycardia. In setting of worsening renal function, pulm HTN
   and biventricular systolic dysfunction, may be physiological response
   to decreased preload.  Other possiblities entertained have included
   anemia from GIB, pain, albuterol nebs. PE ruled out.
   - continue 75mg TID, if still not rate-controlled with incr to 100 TID
   or switch to CCB for less bronchoconstriction properties.
   - IVF bolus
   # Ruptured Appendix: No plan for surgery
   - switch antibiotics from Vanco/Zosyn (for also concern of pulmonary
   infection) to Cipro/Flagyl
   - passing stool and  imaging without obstruction. Abdomen benign but
   distended and tender
   # Leukocytosis- WBC 13->26 over 2 days. Concerning for C diff or
   abscess
   - urine and blood cultures pending, UA positive but not broadening
   antibiotics unless culture shows resistence
   - CXR with worsening atelectasis and bilateral effusion, no infiltrate
   - KUB with dilated bowl loops, without free air
   - C Diff pending, starting IV flagyl empirically to cover C diff and
   bowel perf.
   - If continues to worsen, could consider PO vanco, although safety
   unclear with perf
   # GIB- Hct now stable s/p 4 u PRBCs on [**4-2**] . Continues to have grossly
   bloody stool
   - GI following, no plan to scope at this point
   - Hct q12, transfuse for Hct <30?
   - IV PPI [**Hospital1 **]
   .
   #COPD:  On multiple nebs, and Vanc/Zosyn, off steroids
   - Stopping antibiotic coverage of COPD flair.
   - consider switching BB to CCB for rate control without
   broncoconstriction
   # [**Last Name (un) 2406**] on CKD: Cr bumped from 1.1 to 1.4 in setting of NPO/sips and no
   IVF, net  -1/2 L. FeNa low.
   - renally dose meds
   - IVF bolus, as responded well to 250ml NS (improved tachycardia and
   urine output)
   #Prostate and Lung Ca: Not currently on treatment for these at home.
   No tx indicated at this time.
   #Hyperlipidemia: Continue pravastatin at home dose.
   ICU Care
   Nutrition: clear sips, nutrition consult re TPN
   Lines:
   PICC Line - [**2107-4-3**] 11:33 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI
   Code status: Full code, discuss
   Disposition: ICU
                      1. Vancomycin 1000 mg IV Q 24H
   11. Multivitamins 1 TAB PO DAILY
   2. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   12. Neutra-Phos 1 PKT PO BID
   3. Metoprolol Tartrate 75 mg PO Q 8H
   13. Nystatin Cream 1 Appl TP [**Hospital1 **]
   4. Pravastatin 40 mg PO DAILY
   14. Miconazole Powder 2% 1 Appl TP QID:PRN
   5. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 **]
   15. Lorazepam 0.5 mg IV Q1H PRN/CIWA
   6. Ipratropium Bromide Neb [**2-4**] NEB IH Q6H
   16. traZODONE 75 mg PO HS
   7. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN
   17. Vitamin D 400 UNIT PO Q 12H
   8. Tiotropium Bromide 1 CAP IH DAILY
   18. Pantoprazole 40 mg IV Q12H
   9. Xopenex *NF* 0.63 mg/3 mL Inhalation q2h:prn SOB
   19. Calcium Carbonate 1250 mg PO TID
   10. Alendronate Sodium 70 mg PO QTHUR
   20. Docusate Sodium 100 mg PO BID
                      21. Acetaminophen 1000 mg PO Q 8H

2107-04-06 07:23:00 Physician Resident Progress Note
Chief Complaint: 81 year old male with CHF, Stage III CKD, lung CA s/p
   wedge resection, and prostate CA s/p hormonal tx and XRT who presented
   [**3-29**] with ruptured appendix medically managed, transferred to medicine
   floor for tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and
   relative hypotension.
   24 Hour Events:
   - No GI recs
   - [**Doctor First Name 3**] recs do not adv diet as pt still distended with rising WBC
   - Cards recs pt rate-controlled without dig so do not need to add dig
   now, tachycardia likely related to infection
   - Rash on back
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-4-4**] 08:38 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-5**] 08:26 AM
   Ciprofloxacin - [**2107-4-5**] 08:45 PM
   Metronidazole - [**2107-4-6**] 12:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-4-5**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-6**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 112 (93 - 119) bpm
   BP: 73/38(64) {72/32(43) - 117/71(80)} mmHg
   RR: 32 (22 - 41) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,950 mL
                                                                    173 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,710 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    175 mL
   Urine:
                                                                  1,665 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.42/40/31/24/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   203 K/uL
   12.8 g/dL
   87 mg/dL
   1.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   33 mg/dL
   105 mEq/L
   139 mEq/L
   37.3 %
   22.9 K/uL
        [image002.jpg]
                             [**2107-4-3**]  09:35 AM
                             [**2107-4-3**]  04:00 PM
                             [**2107-4-3**]  09:55 PM
                             [**2107-4-4**]  03:32 AM
                             [**2107-4-4**]  11:16 AM
                             [**2107-4-5**]  05:12 AM
                             [**2107-4-5**]  05:56 PM
                             [**2107-4-6**]  12:00 AM
                             [**2107-4-6**]  12:53 AM
                             [**2107-4-6**]  04:20 AM
   WBC
   19.4
   26.1
   22.9
   Hct
   40.7
   37.5
   39.2
   36.8
   41.1
   38.0
   34.5
   40.2
   37.3
   Plt
   227
   215
   203
   Cr
   1.1
   1.4
   1.8
   TCO2
   27
   Glucose
   150
   113
   87
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB / Troponin-T:67/4/,
   ALT / AST:32/36, Alk Phos / T Bili:57/0.2, Differential-Neuts:92.6 %,
   Band:1.0 %, Lymph:3.8 %, Mono:2.5 %, Eos:0.9 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.5 g/dL, LDH:191 IU/L, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   81 year old male with CHF, Stage III CKD, lung CA s/p wedge resection,
   and prostate CA s/p hormonal tx and XRT who presented [**3-29**] with
   ruptured appendix medically managed, transferred to medicine floor for
   tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and relative
   hypotension.
   # Tachycardia: has h/o PAF, but on eval by cardiology is thought to be
   in sinus tachycardia. In setting of worsening renal function, pulm HTN
   and biventricular systolic dysfunction, may be physiological response
   to decreased preload.  Other possiblities entertained have included
   anemia from GIB, pain, albuterol nebs. PE ruled out.
   - continue 75mg TID, if still not rate-controlled with incr to 100 TID
   or switch to CCB for less bronchoconstriction properties.
   - IVF bolus
   # Ruptured Appendix: No plan for surgery
   - switch antibiotics from Vanco/Zosyn (for also concern of pulmonary
   infection) to Cipro/Flagyl
   - passing stool and  imaging without obstruction. Abdomen benign but
   distended and tender
   # Leukocytosis- WBC 13->26 over 2 days. Concerning for C diff or
   abscess
   - urine and blood cultures pending, UA positive but not broadening
   antibiotics unless culture shows resistence
   - CXR with worsening atelectasis and bilateral effusion, no infiltrate
   - KUB with dilated bowl loops, without free air
   - C Diff pending, starting IV flagyl empirically to cover C diff and
   bowel perf.
   - If continues to worsen, could consider PO vanco, although safety
   unclear with perf
   # GIB- Hct now stable s/p 4 u PRBCs on [**4-2**] . Continues to have grossly
   bloody stool
   - GI following, no plan to scope at this point
   - Hct q12, transfuse for Hct <30?
   - IV PPI [**Hospital1 **]
   .
   #COPD:  On multiple nebs, and Vanc/Zosyn, off steroids
   - Stopping antibiotic coverage of COPD flair.
   - consider switching BB to CCB for rate control without
   broncoconstriction
   # [**Last Name (un) 2406**] on CKD: Cr bumped from 1.1 to 1.4 in setting of NPO/sips and no
   IVF, net  -1/2 L. FeNa low.
   - renally dose meds
   - IVF bolus, as responded well to 250ml NS (improved tachycardia and
   urine output)
   #Prostate and Lung Ca: Not currently on treatment for these at home.
   No tx indicated at this time.
   #Hyperlipidemia: Continue pravastatin at home dose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-4-3**] 11:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
                      1. Vancomycin 1000 mg IV Q 24H
   11. Multivitamins 1 TAB PO DAILY
   2. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   12. Neutra-Phos 1 PKT PO BID
   3. Metoprolol Tartrate 75 mg PO Q 8H
   13. Nystatin Cream 1 Appl TP [**Hospital1 **]
   4. Pravastatin 40 mg PO DAILY
   14. Miconazole Powder 2% 1 Appl TP QID:PRN
   5. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 **]
   15. Lorazepam 0.5 mg IV Q1H PRN/CIWA
   6. Ipratropium Bromide Neb [**2-4**] NEB IH Q6H
   16. traZODONE 75 mg PO HS
   7. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN
   17. Vitamin D 400 UNIT PO Q 12H
   8. Tiotropium Bromide 1 CAP IH DAILY
   18. Pantoprazole 40 mg IV Q12H
   9. Xopenex *NF* 0.63 mg/3 mL Inhalation q2h:prn SOB
   19. Calcium Carbonate 1250 mg PO TID
   10. Alendronate Sodium 70 mg PO QTHUR
   20. Docusate Sodium 100 mg PO BID
                      21. Acetaminophen 1000 mg PO Q 8H

2107-04-07 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 81 year old male with CHF, Stage III CKD, lung CA s/p
   wedge resection, and prostate CA s/p hormonal tx and XRT who presented
   [**3-29**] with ruptured appendix medically managed, transferred to medicine
   floor for tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and
   relative hypotension.
   24 Hour Events:
   - started on TPN and maintenance + bolus fluids
   - bladder pressure 22, surgery notified and saw. Clinically not
   abdominal compartment syndrome.
   - [**Doctor First Name **] worsening (FeNA 0.3%) but making urine. UA positive, awaiting UCx
   and BCx to see if something grows that's not covered.
   Subjective:
   - Pt says he is feeling better today, passed some gas, no n/v
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-4-4**] 08:38 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-5**] 08:26 AM
   Ciprofloxacin - [**2107-4-6**] 08:00 PM
   Metronidazole - [**2107-4-7**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-4-6**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-7**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 104 (95 - 131) bpm
   BP: 106/55(67) {84/44(33) - 111/68(74)} mmHg
   RR: 24 (17 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
    Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  2,718 mL
                                                                    487 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                  2,077 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    755 mL
   Urine:
                                                                    995 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,723 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GEN: NAD
   HEENT: dry MM
   CV: tachycardic, no murmurs
   PULM: CTA B
   ABD: soft but distended, not tender, +BS, no guarding, no rebound,
   EXT: no edema
   PERINEUM: erythematous, most rash over scrotum and surrounding area
   Labs / Radiology
   254 K/uL
   12.4 g/dL
   132 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   38 mg/dL
   108 mEq/L
   142 mEq/L
   36.1 %
   20.2 K/uL
        [image002.jpg]
                             [**2107-4-3**]  04:00 PM
                             [**2107-4-3**]  09:55 PM
                             [**2107-4-4**]  03:32 AM
                             [**2107-4-4**]  11:16 AM
                             [**2107-4-5**]  05:12 AM
                             [**2107-4-5**]  05:56 PM
                             [**2107-4-6**]  12:00 AM
                             [**2107-4-6**]  12:53 AM
                             [**2107-4-6**]  04:20 AM
                             [**2107-4-7**]  04:25 AM
   WBC
   19.4
   26.1
   22.9
   20.2
   Hct
   37.5
   39.2
   36.8
   41.1
   38.0
   34.5
   40.2
   37.3
   36.1
   Plt
   227
   215
   203
   254
   Cr
   1.1
   1.4
   1.8
   1.9
   TCO2
   27
   Glucose
   150
   113
   87
   132
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB / Troponin-T:67/4/,
   ALT / AST:32/36, Alk Phos / T Bili:57/0.2, Differential-Neuts:92.6 %,
   Band:1.0 %, Lymph:3.8 %, Mono:2.5 %, Eos:0.9 %, Lactic Acid:2.4 mmol/L,
   Albumin:2.5 g/dL, LDH:191 IU/L, Ca++:7.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   81 year old male with CHF, Stage III CKD, lung CA s/p wedge resection,
   and prostate CA s/p hormonal tx and XRT who presented [**3-29**] with
   ruptured appendix medically managed, transferred to medicine floor for
   tachycardia, now transferred to [**Hospital Unit Name 10**] with tachycardia and relative
   hypotension.
   # Ruptured Appendix: No plan for surgery
   - switched antibiotics from Vanco/Zosyn (for also concern of pulmonary
   infection) to Cipro/Flagyl day #3
   - passing stool and  imaging without obstruction. Abdomen benign but
   distended and tender
   - f/u surgery recs
   # [**Last Name (un) 2406**] on CKD: FeNa  <1 yesterday, but received over 2L yesterday and Cr
   incr to 1.8 today. Likely [**3-7**] contrast nephropathy
   - will give D5 1/2NS maintenece fluid
   - will recheck FeNa for comparison
   - check for urine eos
   # Tachycardia: has h/o PAF, but on eval by cardiology is thought to be
   in sinus tachycardia. In setting of worsening renal function, pulm HTN
   and biventricular systolic dysfunction, may be physiological response
   to decreased preload.  Other possiblities entertained have included
   anemia from GIB, pain, albuterol nebs. PE ruled out.
   - continue 75mg TID, if still not rate-controlled with incr to 100 TID
   or switch to CCB for less bronchoconstriction properties.
   - IVF bolus
   # Leukocytosis- WBC 13->26 over 2 days. Concerning for C diff or
   abscess
   - urine and blood cultures pending, UA positive but not broadening
   antibiotics unless culture shows resistence
   - CXR with worsening atelectasis and bilateral effusion, no infiltrate
   - KUB with dilated bowl loops, without free air
   - C Diff pending, starting IV flagyl empirically to cover C diff and
   bowel perf.
   - If continues to worsen, could consider PO vanco, although safety
   unclear with perf
   # GIB- Hct now stable s/p 4 u PRBCs on [**4-2**] . Continues to have grossly
   bloody stool
   - GI following, no plan to scope at this point
   - Hct q12, transfuse for Hct <30?
   - IV PPI [**Hospital1 **]
   .
   #COPD:  On multiple nebs, and Vanc/Zosyn, off steroids
   - Stopping antibiotic coverage of COPD flair.
   - consider switching BB to CCB for rate control without
   broncoconstriction
   - d/c
d ipratropium since pt is already on tiotropium
   #Prostate and Lung Ca: Not currently on treatment for these at home.
   No tx indicated at this time.
   #Hyperlipidemia: Continue pravastatin at home dose.
   # Inguinal rash
likely fungal
   - starting silver sulfadiazine cream [**Hospital1 **]
   # FEN
starting TPN today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-4-3**] 11:33 AM
   Prophylaxis:
   DVT:  no SQH (from GI bleed) (also no ASA)
   Stress ulcer:  pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: